US05478825
2-(Dimethylamino-5-[N-(2-hydroxyethyl)amino]-7,8-dihydro-9H-thiopyrano[3,2-d]-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 1.35 g (0,005 mole) of 2-dimethylamino-5-chloro-7,8-dihydro-9H-thiopyrano[3,2-d]-1,2,4-triazolo[1,5-a]pyrimidine, 5 ml of isopropanol and 0.61 g (0.01 mole) of ethanolamine is boiled for half an hour under stirring. 10 ml of water are added to the warm solution. The mixture is cooled, then the separated product is filtered and washed with water and cold isopropanol.

reactant | 2-dimethylamino-5-chloro-7,8-dihydro-9H-thiopyrano[3,2-d]-1,2,4-triazolo[1,5-a]pyrimidine | 0,005 mole, 1.35 g | CN(C1=NN2C(N=C3C(=C2Cl)SCCC3)=N1)C | C10H12ClN5S
reactant | isopropanol | 5 ml | C(C)(C)O | C3H8O
reactant | ethanolamine | 0.01 mole, 0.61 g | C(O)CN | C2H7NO
solvent | water | 10 ml | O | H2O
product | Dimethylamino-5-[N-(2-hydroxyethyl)amino]-7,8-dihydro-9H-thiopyrano[3,2-d]-1,2,4-triazolo[1,5-a]pyrimidine | CN(C)C1=NN2C(N=C3C(=C2NCCO)SCCC3)=N1 | C12H18N6OS
